US05187190
A solution of N-t-butoxycarbonylaminoethanol (2.0 g), dihydropyran (1.7 ml) and pyridinium p-toluenesulphonate (310 mg) in anhydrous dichloromethane (90 ml) was stirred at room temperature for 2 1/2 hours. Ether (150 ml) was added, the solution was washed with water (2×50 ml), dried, and the solvent removed under reduced pressure to give 2-(2-(2-(N-t-butoxycarbonylamino)ethoxy)tetrahydropyran (3.0 g) as a yellow oil.

reactant | N-t-butoxycarbonylaminoethanol | 2.0 g | C(C)(C)(C)OC(=O)NC(C)O | C7H15NO3
reactant | dihydropyran | 1.7 ml | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulphonate | 310 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | Ether | 150 ml | CCOCC | C4H10O
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
product | 2-(2-(N-t-butoxycarbonylamino)ethoxy)tetrahydropyran | 3.0 g | C(C)(C)(C)OC(=O)NCCOC1OCCCC1 | C12H23NO4
